US08492588B2
A mixture of 4-nitrophenol (1.39 g, 10 mmol), potassium carbonate (1.38 g, 10 mmol) and 4-fluorobenzyl bromide (1.89 g, 10 mmol) in 20 ml of anhydrous DMF was stirred at 100° C. for 2 days. After cooling to room temperature, the reaction mixture was poured into 200 ml of ice-water with stirring. The solid was filtered and washed with water and dried to give 2.37 g (96%) of 1-nitro-4-(4-fluorobenzyloxy)-benzene as yellow solids.

reactant | 4-nitrophenol | 10 mmol, 1.39 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 10 mmol, 1.89 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-nitro-4-(4-fluorobenzyloxy)-benzene | 2.37 g, 96% | [N+](=O)([O-])C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C13H10FNO3
